US09382188B2
E) ethyl 3-cyclopropyl-3-(3-((N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)-2-nitrophenylsulfonamido)methyl)phenyl)propanoate
To a solution of N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)-2-nitrobenzenesulfonamide (892 mg), ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate (445 mg) and triphenylphosphine (990 mg) in THF (19 mL) was added a 40% solution of diethyl azodicarboxylate in toluene (1.49 mL) at 0° C., and the mixture was stirred at room temperature for 2 hr. The reaction mixture was concentrated under reduced pressure, and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (1.22 g) as a colorless gummy substance.

reactant | N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)-2-nitrobenzenesulfonamide | 892 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])CC(C)(C)C | C24H25FN2O5S
reactant | ethyl 3-cyclopropyl-3-(3-(hydroxymethyl)phenyl)propanoate | 445 mg | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CO | C15H20O3
reactant | triphenylphosphine | 990 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | THF | 19 mL | C1CCOC1 | C4H8O
solvent | toluene | 1.49 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl 3-cyclopropyl-3-(3-((N-(2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)-2-nitrophenylsulfonamido)methyl)phenyl)propanoate | 1.22 g | C1(CC1)C(CC(=O)OCC)C1=CC(=CC=C1)CN(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C1=CC(=C(C=C1)C1=C(C=CC(=C1)OC)F)CC(C)(C)C | C39H43FN2O7S
